data/pmechdb/original/mc_train_fold0/raw/train.txt
[B-](OCCCC1CCC[N+:21](=[CH:20]1)S(=O)(=O)C2=CC=C(C=C2)C)(F)(F)F.C[Si](C)(C)C[C:11]#[CH:10]>>[B-](OCCCC1CCC[N:21]([CH:20]1[CH:10]=[C+:11]C[Si](C)(C)C)S(=O)(=O)C2=CC=C(C=C2)C)(F)(F)F 10,11=10,20;20,21=21
[Li:20]OC(=C)C(C)CC(C)CN=[N+]=[N-].CC(C)[Si](C(C)C)(C(C)C)OC(CC(C)CC(=C)COCC1=CC=CC=C1)C(C=[O:10])O[Si](C)(C)C>>[Li-:20](OC(=C)C(C)CC(C)CN=[N+]=[N-])[O+:10]=CC(C(CC(C)CC(=C)COCC1=CC=CC=C1)O[Si](C(C)C)(C(C)C)C(C)C)O[Si](C)(C)C 10=20,
COC(=O)CCCC#CCC#CC[O-:10].C1=CC=C(C=C1)[P+:20](C2=CC=CC=C2)(C3=CC=CC=C3)Br.C(Br)(Br)Br>>COC(=O)CCCC#CCC#CC[O:10][P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)Br.C(Br)(Br)Br 10=20,
CCCC(=[O:10])OCCC.[Na+:20].[BH4-]>>CCCC(=[O+:10][Na:20])OCCC.[BH4-] 10=20,
[H:20][OH2+:21].COC[O:10]C.C1=CC=C(C=C1)CCN.C1=CC(=CC=C1CC(C(=O)O)N)O.[Cl-]>>[H:20][O+:10](C)COC.[OH2:21].C1=CC=C(C=C1)CCN.C1=CC(=CC=C1CC(C(=O)O)N)O.[Cl-] 10=20;20,21=21
[H:20][Br:21].CC1CCC([CH:10]=[C:11]1C)C2=CC=CC=C2>>[H:20][CH:10]1C(CCC([C+:11]1C)C)C2=CC=CC=C2.[Br-:21] 10,11=10,20;20,21=21
CC1CC[C:11](=[C:10]1CCC#C)[O-:12].C[C:22](=[O:23])[C:21](=[CH2:20])[Si](C)(C)C.[Li][Cu+]C>>CC1CC[C:11](=[O:12])[C:10]1(CCC#C)[CH2:20][C:21](=[C:22](C)[O-:23])[Si](C)(C)C.[Li][Cu+]C 10,11=10,20;12=11;22,23=23;20,21=21,22
[H:20][N+:21](CCO)(CCO)CCO.[B-]1(OC(C(O1)(C)C)(C)C)(OCCN(CCO)CCO)[O:10]C(C2=CC=CC=C2)C(C)C=C>>[H:20][O+:10]([B-]1(OC(C(O1)(C)C)(C)C)OCCN(CCO)CCO)C(C2=CC=CC=C2)C(C)C=C.C(CO)[N:21](CCO)CCO 10=20;20,21=21
[B-]([O:10]CC[O+:21]=[CH2:20])(F)(F)F>>[B-]([O+:10]1CC[O:21][CH2:20]1)(F)(F)F 10=20;20,21=21
C[C+:20]=O.[CH:10]1=[CH:11][CH:12]=[C:13](C=C1)Br>>C[C:20](=O)[CH:10]1C=C[C+:13]([CH:12]=[CH:11]1)Br 10,11=10,20;12,13=11,12
CC(=O)[O-:10].[CH3:20][O:21][P+:22](C)(O)O>>CC(=O)[O:10][CH3:20].C[P:22](=[O:21])(O)O 10=20;20,21=21,22
CCOC(=O)C(=C(C1=CC=CC=C1)C2=CC=CC=C2)[CH:10]=[C:11]([O-:12])OC.C1=C(C=C(C=C1C(F)(F)F)C(F)(F)F)[CH:20]=[O:21].[HH].CO.[Na+]>>CCOC(=O)C(=C(C1=CC=CC=C1)C2=CC=CC=C2)[CH:10]([CH:20](C3=CC(=CC(=C3)C(F)(F)F)C(F)(F)F)[O-:21])[C:11](=[O:12])OC.[HH].CO.[Na+] 10,11=10,20;20,21=21;12=11
C[CH+:20]C.CO[C:11]1=[CH:10]C=CC(=C1)[N+](=O)[O-]>>C[CH:20](C)[CH:10]1C=CC(=C[C+:11]1OC)[N+](=O)[O-] 10,11=10,20
[B-:11]1(OC(C(O1)(C)C)(C)C)([CH2:10][CH+:20]C2CCCC2OC)OC(=O)C(F)(F)F.CO>>[B:11]1(OC(C(O1)(C)C)(C)C)OC(=O)C(F)(F)F.COC1CCCC1[CH:20]=[CH2:10].CO 10,11=10,20
CCC(CO)[NH2:10].C1=CC=C(C=C1)C(=O)[CH2:20][Cl:21]>>CCC(CO)[NH2+:10][CH2:20]C(=O)C1=CC=CC=C1.[Cl-:21] 10=20;20,21=21
C[C:20](CCC(=O)CCC1=CC=CC=C1)([NH2:10])[OH:21].CO.N>>C[C:20](=[NH2+:10])CCC(=O)CCC1=CC=CC=C1.[OH-:21].CO.N 10=20;20,21=21
C[Si-:10](C)(C)([O+]=C)[Cl:11]>>C[Si:10](C)(C)[O+]=C.[Cl-:11] 10,11=11
[H:20][C:21]1(C=CC=C([CH+:22]1)C#N)S(=O)(=O)O.OS(=O)(=O)[O-:10]>>[H:20][O:10]S(=O)(=O)O.C1=C[C:21](=[CH:22]C(=C1)C#N)S(=O)(=O)O 10=20;20,21=21,22
CCOC(=O)C1(CCCC[C:20]1=[O:21])CCC=C.[OH-:10]>>CCOC(=O)C1(CCCC[C:20]1([OH:10])[O-:21])CCC=C 10=20;20,21=21
CC[CH:20]([C:10](=[CH:11][O-:12])C)[OH:21]>>CC[CH:20]=[C:10](C)[CH:11]=[O:12].[OH-:21] 10,11=10,20;20,21=21;12=11
CC(=CN(CCC1=CC=C(C(=C1)OC)OC)C(=O)C=[S:10](C)[OH2+:11])C(=O)OC.CS(=O)(=O)[O-]>>CC(=CN(CCC1=CC=C(C(=C1)OC)OC)C(=O)C=[S+:10]C)C(=O)OC.[OH2:11].CS(=O)(=O)[O-] 10,11=11
COC1=C2C(=CC=C1)C3=CC=CC=C3N2C([CH2:20][O:21]S(=O)(=O)C)C4=CC=CC=C4.[I-:10].[Na+]>>COC1=C2C(=CC=C1)C3=CC=CC=C3N2C([CH2:20][I:10])C4=CC=CC=C4.CS(=O)(=O)[O-:21].[Na+] 10=20;20,21=21
CCCCC=[C:20]=[CH:21][C:22](=[O:23])CCCC.C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3.CC[OH2+]>>CCCCC=[C:20]([CH:21]=[C:22](CCCC)[O-:23])[P+:10](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CC[OH2+] 10=20;22,23=23;20,21=21,22
CC(C)[OH:10].CC(C)[O+:21]=[C:20](C)C>>CC(C)[OH+:10][C:20](C)(C)[O:21]C(C)C 10=20;20,21=21
[H:20][OH2+:21].C1CCC(CC1)(CNN=[O:10])O.[Cl-]>>[H:20][O+:10]=NNCC1(CCCCC1)O.[OH2:21].[Cl-] 10=20;20,21=21
[CH:20](=[NH2+:21])O.[Cl-:10]>>[CH:20]([NH2:21])(O)[Cl:10] 10=20;20,21=21
C[C+:20]=O.C1=CC2=C(C=C1)[CH:10]=[C:11](C=C2)Br>>C[C:20](=O)[CH:10]1C2=C(C=CC=C2)C=C[C+:11]1Br 10,11=10,20
C1[CH2:11][CH:10]1[CH2:20][N+:21]#N>>N#[N:21].[CH2:20]=[CH:10]C[CH2+:11] 10,11=10,20;20,21=21
[B-:10]([O+:11]=C1C2(CCCC2)C3=C(N1)C=CC=C3)(F)(F)F>>[B:10](F)(F)F.C1CCC2(C1)C3=C(C=CC=C3)NC2=[O:11] 10,11=11
CCCC(C)O[Al-:10]([OH+:11]C(C)C)(OC(C)C)OC(C)C.CC(C)[O-]>>CCCC(C)O[Al:10](OC(C)C)OC(C)C.CC(C)[OH:11].CC(C)[O-] 10,11=11
[H:10][C:11]1(CCC(CC1CC(C)C)CC(C)C)[O:12][Al-](OC(C)C)(OC(C)C)[O+:21]=[C:20](C)C.CC(C)[O-]>>[H:10][C:20](C)(C)[O:21][Al-](OC(C)C)(OC(C)C)[O+:12]=[C:11]1CCC(CC1CC(C)C)CC(C)C.CC(C)[O-] 10,11=10,20;20,21=21;12=11
[H:20][O+:21]=C(C(CC)O)O.[Cl-:10]>>[H:20][Cl:10].CCC(C(=[O:21])O)O 10=20;20,21=21
C1=CC=C(C=C1)[C:20](CCC(=O)C2=CC=CO2)([NH:10]CC(=O)O)[OH2+:21].CC(=O)[O-]>>C1=CC=C(C=C1)[C:20](=[NH+:10]CC(=O)O)CCC(=O)C2=CC=CO2.[OH2:21].CC(=O)[O-] 10=20;20,21=21
C[C+:20]=O.[CH:11]1=[CH:10]C2=CC=CC(=C2C=C1)[N+](=O)[O-]>>C[C:20](=O)[CH:10]1[CH+:11]C=CC2=C(C=CC=C12)[N+](=O)[O-] 10,11=10,20
